US08431596B2
Cyclopropanecarboxylic acid {5-[4-(2-diethylamino-ethylamino)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide (WW-153)
Cyclopropanecarboxylic acid [5-(4-amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (0.05 g, 0.17 mmol), 2-bromo-N,N-diethylethylamine hydrobromide (0.133 g, 0.511 mmol) and diisopropylethylamine (0.089 mL, 0.511 mmol) were added to a microwave tube and the mixture was heated for 10 min at 150° C. The mixture was filtered and purified by preparatory LCMS. LCMS Method: 2: RT: 2.07 min; MI: 393 [M+1]. NMR (DMSO, 300 MHz): 0.81 (d, 4H), 1.10 (t, 6H), 2.04 (brs, 1H), 2.89 (m, 6H), 3.33 (t, 2H), 6.75 (d, 2H), 7.20 (dd, 1H), 7.53 (m, 1H), 7.64 (m, 1H), 7.92 (d, 2H), 8.18 (s, 1H), 11.00 (s, 1H)

reactant | Cyclopropanecarboxylic acid [5-(4-amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | 0.17 mmol, 0.05 g | NC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C16H15N5O
reactant | 2-bromo-N,N-diethylethylamine hydrobromide | 0.511 mmol, 0.133 g | Br.BrCCN(CC)CC
reactant | diisopropylethylamine | 0.511 mmol, 0.089 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | Cyclopropanecarboxylic acid {5-[4-(2-diethylamino-ethylamino)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide | C(C)N(CCNC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2)CC | C22H28N6O
